US04214004
3-Bromomethyl-3'-methyl[1,1'-biphenyl] was prepared by treating 3,3'-dimethyl[1,1'-biphenyl] (20.0 g, 0.11 mole) with N-bromosuccinimide (18.9 g, 0.11 mole) in the presence of 0.1 g of benzoyl peroxide in 130 ml of carbon tetrachloride. Irradiation of the reaction mixture with white light afforded 3-bromomethyl-3'-methyl[1,1'-biphenyl] (4.5 g). The nmr and the ir spectra were consistent with the proposed structure.

reactant | 3,3'-dimethyl[1,1'-biphenyl] | 0.11 mole, 20.0 g | CC=1C=C(C=CC1)C1=CC(=CC=C1)C | C14H14
reactant | N-bromosuccinimide | 0.11 mole, 18.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 130 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 3-bromomethyl-3'-methyl[1,1'-biphenyl] | 4.5 g | BrCC=1C=C(C=CC1)C1=CC(=CC=C1)C | C14H13Br
